US06897231B2
C. (2R)-N-[3-(5-{5-[(Dimethylamino)methyl](1H-1,2,4-triazol-3-yl)}(1H-indazol-3-yl))phenyl]-2-hydroxy-2-phenylacetamide
To a suspension of (2R)-N-{3-[5-(ethoxyiminomethyl)(1H-indazol-3-yl)]phenyl}-2-hydroxy-2-phenylacetamide hydrochloride (0.500 g, 1.11 mmol) in methanol (10 mL) were added 3 equivalents of N-amino-2-(dimethylamino)acetamide (0.390 g, 3.33 mmol) and 2.5 equivalents of sodium methoxide in methanol (0.635 mL, 4.3 M). After stirring at room temperature for 1H, the reaction mixture was heated to 95° C. for 48 hours. The reaction was then quenched with water, the pH adjusted to neutral and the crude product extracted with ethyl acetate. The title compound was purified by preparative HPLC (0.050 g, 9% yield): 1H NMR (CD3OD) δ 8.72 (s, 1H), 8.23 (s, 1H), 8.08 (d, 1H), 7.89 (d, 2H), 7.68 (d, 1H), 7.58 (d, 2H), 7.51 (t, 1H), 7.40-7.32 (m, 3H), 5.21 (s, 1H), 3.71 (s, 2H), 2.37 (s, 6H); ES-MS (m/z) 468 [M+H]+.

reactant | (2R)-N-{3-[5-(ethoxyiminomethyl)(1H-indazol-3-yl)]phenyl}-2-hydroxy-2-phenylacetamide hydrochloride | 1.11 mmol, 0.500 g | Cl.C(C)ON=CC=1C=C2C(=NNC2=CC1)C=1C=C(C=CC1)NC([C@@H](C1=CC=CC=C1)O)=O
reactant | N-amino-2-(dimethylamino)acetamide | 3.33 mmol, 0.390 g, 3 equivalents | NNC(CN(C)C)=O | C4H11N3O
reactant | sodium methoxide | 2.5 equivalents | C[O-].[Na+]
solvent | methanol | 10 mL | CO | CH4O
solvent | methanol | 4.3 M, 0.635 mL | CO | CH4O
product | (2R)-N-[3-(5-{5-[(Dimethylamino)methyl](1H-1,2,4-triazol-3-yl)}(1H-indazol-3-yl))phenyl]-2-hydroxy-2-phenylacetamide | 9% yield | CN(C)CC1=NC(=NN1)C=1C=C2C(=NNC2=CC1)C=1C=C(C=CC1)NC([C@@H](C1=CC=CC=C1)O)=O | C26H25N7O2
